US08278336B2
Step 1: 1-acetyl-5-fluoro-1,3-dihydroindol-2-one
At 170° C. 3.0 g (20 mmol) 5-fluoroindolinone were stirred in 10 mL (98 mmol) acetic anhydride for 3 h. After cooling to RT the mixture was poured onto 200 mL ice water, the precipitated substance was suction filtered and washed with 100 mL water. The solid was recrystallised from water and ethanol. The precipitated product was suction filtered, washed with water and dried i. vac.

reactant | 5-fluoroindolinone | 20 mmol, 3.0 g | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | acetic anhydride | 98 mmol, 10 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 1-acetyl-5-fluoro-1,3-dihydroindol-2-one | C(C)(=O)N1C(CC2=CC(=CC=C12)F)=O | C10H8FNO2
